US09035053B2
A solution of 5-bromo-3-((trimethylsilyl)ethynyl)pyrazin-2-amine PTSA salt (Compound C-2) (2350 g, 5.31 mol) in EtOAc (11.5 L) is stirred with a 20% w/w aq. solution of KHCO3 (4.5 kg, 1.5 eq.) for at least 30 min. The layers are separated and the organic layer is concentrated then dissolved in EtOAc (7 L) and added to a reactor. DMAP (19.5 g, 0.16 mol) is added followed a solution of Boc2O (2436 g, 11.16 mol) in EtOAc (3 L) is added lowly. The reaction is stirred for at least 30 min to ensure complete reaction then activated charcoal (Darco G-60, 720 g) and Celite (720 g) are added and stirred for at least 2 h. The mixture is filtered washing the solid pad with EtOAc (2×1.8 L). The filtrate is concentrated to afford tert-butyl N-tert-butoxycarbonyl-N-[5-bromo-3-((trimethylsilyl)ethynyl)pyrazin-2-yl]carbamate (Compound C-3) that is used directly in the next step.

reactant | 5-bromo-3-((trimethylsilyl)ethynyl)pyrazin-2-amine PTSA | 5.31 mol, 2350 g | BrC=1N=C(C(=NC1)N)C#C[Si](C)(C)C.CC=1C=CC(=CC1)S(=O)(=O)O
reactant | Boc2O | 11.16 mol, 2436 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | charcoal | 720 g | C | CH4
reactant | EtOAc | 11.5 L | CCOC(=O)C | C4H8O2
reactant | EtOAc | 3 L | CCOC(=O)C | C4H8O2
catalyst | DMAP | 0.16 mol, 19.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl N-tert-butoxycarbonyl-N-[5-bromo-3-((trimethylsilyl)ethynyl)pyrazin-2-yl]carbamate | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C1=NC=C(N=C1C#C[Si](C)(C)C)Br | C19H28BrN3O4Si
